US09108977B2
To a solution of 670 mg of t-butyl 11-isopropenyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate in 10 ml of MeOH was added 200 mg of palladium on carbon, followed by stirring at room temperature for 3.5 hours at normal pressure under a hydrogen atmosphere. Further, after stirring overnight at 4.5 atm under a hydrogen atmosphere, the reaction mixture was filtered through celite, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 512 mg of t-butyl 11-isopropyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate.

reactant | t-butyl 11-isopropenyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 670 mg | C(=C)(C)C=1C2=C(C=C3CCCNC13)CCN(CC2)C(=O)OC(C)(C)C | C21H30N2O2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | t-butyl 11-isopropyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 512 mg | C(C)(C)C=1C2=C(C=C3CCCNC13)CCN(CC2)C(=O)OC(C)(C)C | C21H32N2O2
